US07820673B2
36a) tert-butyl 2-ethyl-2-hydroxy-1-(hydroxymethyl)butylcarbamate
Boc-serine methyl ester (6.30 g) was dissolved in diethyl ether (150 ml), and a solution of ethyl magnesium bromide (in 3 M diethyl ether, 57 ml) was added dropwise thereto while the mixture was cooled to −78° C. After addition by dropping, the temperature of the reaction mixture was elevated to room temperature, and mixed at room temperature for 2 hours. The reaction mixture was again cooled to 0° C., and a saturated aqueous ammonium chloride solution was added dropwise thereto. The organic layer was collected by separation, and the aqueous layer was extracted three times with ethyl acetate. The extracts were all mixed, washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain the title compound as a colorless oil (1.10 g, 79%).

reactant | Boc-serine methyl ester | 6.30 g | COC([C@@H](NC(=O)OC(C)(C)C)CO)=O | C9H17NO5
reactant | ethyl magnesium bromide | 3 M, 57 ml | C(C)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | tert-butyl 2-ethyl-2-hydroxy-1-(hydroxymethyl)butylcarbamate | 1.10 g, 79% | C(C)C(C(CO)NC(OC(C)(C)C)=O)(CC)O | C12H25NO4
